US06235731B1
Concentrated hydrochloric acid (0.8 ml) was added to a stirred solution of N-[3-[4-(2-phenylethan-1-yl)-2-oxopiperazin-1-yl]propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide (369 mg, 0.799 mmol) in ethanol (5.0 ml) at room temperature. After stirring at room temperature for 1 hour, the reaction mixture was concentrated in vacuo to give N-[3-[4-(2-phenylethan-1-yl)2-oxopiperazin-1-yl]propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride as an orange amorphous powder (424 mg, 99%).

reactant | hydrochloric acid | 0.8 ml | Cl | ClH
reactant | N-[3-[4-(2-phenylethan-1-yl)-2-oxopiperazin-1-yl]propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 0.799 mmol, 369 mg | C1(=CC=CC=C1)CCN1CC(N(CC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32)=O | C25H27N5O2S
solvent | ethanol | 5.0 ml | C(C)O | C2H6O
product | N-[3-[4-(2-phenylethan-1-yl)2-oxopiperazin-1-yl]propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | Cl.Cl.C1(=CC=CC=C1)CCN1CC(N(CC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32)=O | InChI=1S/C25H27N5O2S.2ClH/c31-23-18-28(13-10-19-6-2-1-3-7-19)14-15-29(23)12-5-11-26-25(32)21-16-20-17-27-22-8-4-9-24(33-21)30(20)22;;/h1-4,6-9,16-17H,5,10-15,18H2,(H,26,32);2*1H
